US06787535B2
Sodium hydride (0.12 g of 60% dispersion in mineral oil, 3 mmol) was added to a solution of 4-(3-benzenesulfonyl-1H-indol-7-yl)-piperazine-1-carboxylic acid tert-butyl ester (1 g, 2.3 mmol) in 20 mL of DMF with ice cooling. After stirring 15 min at room temperature the mixture was treated with methyl iodide (0.17 mL, 3 mmol). Water was added and the mixture was extracted with ethyl acetate. The extract was washed with water and brine, dried (sodium sulfate) and evaporated. Silica gel chromatography (20% ethyl acetate-hexane) afforded 0.9 g of 4-(3-benzenesulfonyl-1-methyl-1H-indol-7-yl)-piperazine-1-carboxylic acid tert-butyl ester as a foam, mass spec. M+ 455.

reactant | Sodium hydride | 3 mmol, 0.12 g | [H-].[Na+]
reactant | 4-(3-benzenesulfonyl-1H-indol-7-yl)-piperazine-1-carboxylic acid tert-butyl ester | 2.3 mmol, 1 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC=C2C(=CNC12)S(=O)(=O)C1=CC=CC=C1 | C23H27N3O4S
reactant | methyl iodide | 3 mmol, 0.17 mL | CI | CH3I
reactant | Water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-(3-benzenesulfonyl-1-methyl-1H-indol-7-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.9 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC=C2C(=CN(C12)C)S(=O)(=O)C1=CC=CC=C1 | C24H29N3O4S
